US05028606
A solution of 0.3 parts of sodium in 24 parts of 1-propanol was added to 2.4 parts of 3-chloro-6-(1H-imidazol-1-ylmethyl)-2-methylquinoxaline. The whole was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated and the residue was extracted three times with 65 parts of dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of pentane and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.5 parts (57.1%) of 6-(1H-imidazol-1-ylmethyl)-2-methyl-3-propoxyquinoxaline; mp. 85.5° C. (comp. 24).

reactant | sodium | [Na] | Na
reactant | 3-chloro-6-(1H-imidazol-1-ylmethyl)-2-methylquinoxaline | ClC=1C(=NC2=CC=C(C=C2N1)CN1C=NC=C1)C | C13H11ClN4
reactant | 1-propanol | C(CC)O | C3H8O
product | 6-(1H-imidazol-1-ylmethyl)-2-methyl-3-propoxyquinoxaline | 57.1% | N1(C=NC=C1)CC=1C=C2N=C(C(=NC2=CC1)C)OCCC | C16H18N4O
